US08975400B2
2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3-fluoro-5-(trifluoromethyl)phenol and 2-fluoro-5-formylbenzonitrile.

reactant | 3-fluoro-5-(trifluoromethyl)phenol | FC=1C=C(C=C(C1)C(F)(F)F)O | C7H4F4O
reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
product | 2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-formylbenzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)C=O)C=C(C1)C(F)(F)F | C15H7F4NO2
